US05389610
1. N-(4-Methoxybenzyloxycarbonyl-(S)-isoserine methyl ester
Stir cesium carbonate (6.2 g) and N-(4-methoxybenzyloxycarbonyl-(S)-isoserine (10 g) in dimethyl formamide(DMF) (50 ml) for 1 hr. then add methyl iodide (5.4 g). Stir the resulting mixture for 18 h and concentrate in vacuo. Partition the residue between EtOAc/water and then brine. Concentrate the dried (MgSO4) EtOAc solution in vacuo to give an amber oil. Chromatograph this oil on a column of flash silica gel (1100 ml) using EtOAc:hexane (9:1) as eluant to give an amber oil, [α]D26 =+16.9° (MeOH).

reactant | cesium carbonate | 6.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-methoxybenzyloxycarbonyl-(S)-isoserine | 10 g | COC1=CC=C(COC(=O)NC[C@H](O)C(=O)O)C=C1 | C12H15NO6
reactant | methyl iodide | 5.4 g | CI | CH3I
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | MeOH | CO | CH4O
product | 4-Methoxybenzyloxycarbonyl-(S)-isoserine methyl ester | COC([C@H](CNC(=O)OCC1=CC=C(C=C1)OC)O)=O | C13H17NO6
